US06136823
Synthesis of 6,7-Difluoro-1-(2,4-difluoro-5-methylaminophenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid
12N Hydrochloric acid (4 ml) was added to ethyl 1-[5-(N-tert-butoxycarbonyl-N-methylamino)-2,4-difluorophenyl]-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate (400 mg), and the mixture was stirred for 3 days while heating under reflux. After the reaction mixture was allowed to cool, solids were collected by filtration, washed with ethanol and dried to obtain the title compound (240 mg) as a colorless powder.

reactant | Hydrochloric acid | 12N, 4 ml | Cl | ClH
reactant | ethyl 1-[5-(N-tert-butoxycarbonyl-N-methylamino)-2,4-difluorophenyl]-6,7-difluoro-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylate | 400 mg | C(C)(C)(C)OC(=O)N(C)C=1C(=CC(=C(C1)N1C=C(C(C2=CC(=C(C(=C12)C)F)F)=O)C(=O)OCC)F)F | C25H24F4N2O5
product | 6,7-Difluoro-1-(2,4-difluoro-5-methylaminophenyl)-8-methyl-4-oxo-1,4-dihydroquinoline-3-carboxylic Acid | 240 mg | FC=1C=C2C(C(=CN(C2=C(C1F)C)C1=C(C=C(C(=C1)NC)F)F)C(=O)O)=O | C18H12F4N2O3
